US07132539B2
Preparation of (S,S)-2-(2-tert-butoxycarbonylamino-pent-4-enoylamino)-3-naphthalen-2-yl-propionic acid methyl ester (1):
To a solution of 2-(S)-tert-butoxycarbonylamino-pent-4-enoic acid (3.8 g, 18.0 mmol) and 2-(S)-amino-3-naphthalen-2-yl-propionic acid methyl ester (4.1 g, 18.0 mmol) in DMF (40 mL) are added 1-hydroxybenzotriazole (3.1 g, 23.4 mmol), N-methylmorpholine (9.1 g, 90.0 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (4.5 g, 23.4 mmol) consecutively and the reaction mixture is stirred for 3 hours. The reaction is quenched with aqueous NH4Cl and extracted with ethyl acetate. The extract is dried over Na2SO4, filtered and concentrated in vacuo and the residue purified over silica gel (hexanes/ethyl acetate, 1:1) to afford 6.4 g (84% yield) of the desired product.

reactant | 2-(S)-tert-butoxycarbonylamino-pent-4-enoic acid | 18.0 mmol, 3.8 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=C | C10H17NO4
reactant | 2-(S)-amino-3-naphthalen-2-yl-propionic acid methyl ester | 18.0 mmol, 4.1 g | COC([C@H](CC1=CC2=CC=CC=C2C=C1)N)=O | C14H15NO2
reactant | 1-hydroxybenzotriazole | 23.4 mmol, 3.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 90.0 mmol, 9.1 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 23.4 mmol, 4.5 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S,S)-2-(2-tert-butoxycarbonylamino-pent-4-enoylamino)-3-naphthalen-2-yl-propionic acid methyl ester | 6.4 g, 84% yield | COC([C@H](CC1=CC2=CC=CC=C2C=C1)NC([C@H](CC=C)NC(=O)OC(C)(C)C)=O)=O | C24H30N2O5
